US07034166B2
Preparation of N-benzyl-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-l-benzofuran-5-amine
Under a nitrogen atmosphere, to toluene (500 mL) were added 5-bromo-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran (100 g) and benzylamine (36.5 mL), then palladium acetate (62.5 mg) and 2,2′-bis(diphenylphosphinino)-1,1′-binaphthyl [(BINAP, 0.52 g)], and further t-BuONa (37.45 g). The mixture was stirred at 25° C. for 20 minutes and then at 107° C. for 24 hours. To the mixture were added dropwise 1N HCl (167 mL) and water (113 mL) at 70° C. or below, and the mixture was stirred for 10 minutes. The organic layer was separated and washed with a 10% aqueous sodium chloride solution, and the solvent was distilled off. The residue was crystallized from isopropanol-water to obtain the title compound (99 g, 92.3%).

reactant | 5-bromo-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 100 g | BrC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C20H23BrO
reactant | benzylamine | 36.5 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | t-BuONa | 37.45 g | C(C)(C)(C)O[Na]
reactant | HCl | 1N, 167 mL | Cl | ClH
catalyst | palladium acetate | 62.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 113 mL | O | H2O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-l-benzofuran-5-amine | 99 g, 92.3% | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C27H31NO
